US03966713
500 mg. of 17β-acetoxy-6α,7α-epoxy-11β-fluoro-4-androsten-3-one is introduced at room temperature into 25 ml. of glacial acetic acid saturated with gaseous hydrogen chloride. After 24 hours, the solution is poured into ice/water. The thus-precipitated product is vacuum-filtered, taken up in methylene chloride, washed with water, and dried. After recrystallization of the crude product from acetone/hexane, 210 mg. of 17β-acetoxy-6-chloro-11β-fluoro-4,6-androstadien-3-one is obtained. UV: ε283 = 20,300.

reactant | 17β-acetoxy-6α,7α-epoxy-11β-fluoro-4-androsten-3-one | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@H]3[C@@H](C4=CC(CC[C@]4(C)[C@H]1[C@H](C2)F)=O)O3 | C21H27FO4
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 17β-acetoxy-6-chloro-11β-fluoro-4,6-androstadien-3-one | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C=C(C3=CC(CC[C@]3(C)[C@H]1[C@H](C2)F)=O)Cl | C21H26ClFO3
